US04473570
A mixture of 100 g (0.623 mole) of 6-chloromethylpyrimidine-2,4-dione and 200 ml of anhydrous ammonia was allowed to react overnight in a sealed bomb at about 20° C. The solid residue was slurried in ethyl acetate, separated by filtration, and washed sequentially with water and methanol to provide 6-aminomethylpyrimidine-2,4-dione, m.p. 295°-297° C.

reactant | 6-chloromethylpyrimidine-2,4-dione | 0.623 mole, 100 g | ClCC1=CC(NC(N1)=O)=O | C5H5ClN2O2
reactant | ammonia | 200 ml | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-aminomethylpyrimidine-2,4-dione | NCC1=CC(NC(N1)=O)=O | C5H7N3O2
